US05082967
NaH (1.85 g, 0.046 mol) was washed with hexane and then suspended in dry THF (60 mL). 3-Thiapentane-1-ol (4.67 g, 0.04 mol) in THF (20 mL) was added and stirred for 1 h at room temperature. 1,6-Dibromohexane (9.76 g, 0.04 mol) in THF (20 mL) was added and the mixture was refluxed for 20 h. After evaporation of the solvent, the residue was dissolved in ethyl acetetate (200 mL). The organic phase was washed with water (2×50 mL), and dried (Na2SO4). The crude product was purified by Kugelrohr distillation to give 7-oxa-10-thiadodecyl bromide (3.34 g, 31%); bp 48° C. -56° C./0.04 torr; NMR: 1.25 (3H, t, J=7 Hz), 1.2-1.9 (8H, m), 2.59 (2H, q, J=7 Hz), 2.68 (2H, t, J=7 Hz), and 3.2-3.7 ppm (6H, m).

reactant | NaH | 0.046 mol, 1.85 g | [H-].[Na+]
reactant | 3-Thiapentane-1-ol | 0.04 mol, 4.67 g | C(CSCC)O | C4H10OS
reactant | 1,6-Dibromohexane | 0.04 mol, 9.76 g | BrCCCCCCBr | C6H12Br2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-oxa-10-thiadodecyl bromide | 3.34 g, 31% | C(CCCCCOCCSCC)Br | C10H21BrOS
